US07625903B2
N4-{2-[(1,1-Dioxido-4-thiomorpholinyl)carbonyl]phenyl}-5-fluoro-N2-{3-[2-(4-morpholinyl)ethyl]phenyl}-2,4-pyrimidinediamine
5-fluoro-N2-{3-[2-(4-morpholinyl)ethyl]phenyl}-N4-[2-(4-thiomorpholinylcarbonyl)phenyl]-2,4-pyrimidinediamine (100 mg, 0.19 mmoles) was dissolved in 5 mL of THF and 5 mL of methanol, and treated with a solution of OXONE® reagent (15 equivalents) in 5 mL water. The system was stirred for 48 h at room temperature, and then filtered and concentrated to dryness. The residue was immobilized onto silica gel and purified by flash chromatography on silica gel, using a gradient of 100% A to 90% A-10% B, where “A” is chloroform and “B” is 10:90:1 methanol-chloroform-concentrated aqueous ammonium hydroxyde). The title compound was isolated and characterized. MS: M(C27H31FN6O4S)=554.2, (M+H)+=555.

reactant | 5-fluoro-N2-{3-[2-(4-morpholinyl)ethyl]phenyl}-N4-[2-(4-thiomorpholinylcarbonyl)phenyl]-2,4-pyrimidinediamine | 0.19 mmoles, 100 mg | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)CCN1CCOCC1)NC1=C(C=CC=C1)C(=O)N1CCSCC1 | C27H31FN6O2S
reactant | OXONE | OOS(=O)[O-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | N4-{2-[(1,1-Dioxido-4-thiomorpholinyl)carbonyl]phenyl}-5-fluoro-N2-{3-[2-(4-morpholinyl)ethyl]phenyl}-2,4-pyrimidinediamine | O=S1(CCN(CC1)C(=O)C1=C(C=CC=C1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)CCN1CCOCC1)=O | C27H31FN6O4S
